US08802860B2
Preparation of 3-(2-hydroxyethyl)-1-(2-methoxy-4-nitrophenyl)pyridin-2(1H)-one
21.0 g (69.0 mmol) of [1-(2-methoxy-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]acetic acid were introduced as initial charge in 210 ml of THF, and 104 ml of 1M borane solution in THF were added dropwise at RT. The temperature increased to 27° C. during this addition. The reaction mixture was stirred overnight at RT. Following dilution with 400 ml of dichloromethane, 400 ml of 1N sodium hydroxide solution were added with cooling and the mixture was stirred for 30 min. The phases were separated, and the organic phase was washed with water, dried over sodium sulphate, filtered and evaporated to dryness on a rotary evaporator. This gave 17.0 g (85%) of crude product which were further reacted without purification.

reactant | [1-(2-methoxy-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]acetic acid | 69.0 mmol, 21.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C(=CC=C1)CC(=O)O)=O | C14H12N2O6
reactant | borane | 1M, 104 ml | B | BH3
reactant | dichloromethane | 400 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 1N, 400 ml | [OH-].[Na+]
solvent | THF | 210 ml | C1CCOC1 | C4H8O
product | 3-(2-hydroxyethyl)-1-(2-methoxy-4-nitrophenyl)pyridin-2(1H)-one | OCCC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])OC)=O | C14H14N2O5
